US06960575B2
Methyl (2RS)-2-(N-methanesulfonyl)aminoisovalerate (Reference compound No. 58-1)
Triethylamine (6.7 ml) is added to a solution of DL-valine methyl ester hydrochloride (3.35 g, Reference compound No. 45-1) in methylene chloride (70 ml). The mixture is cooled with ice, methanesulfonyl chloride (1.9 ml) is added to the mixture, and the whole is stirred overnight. Ethyl acetate is added to the reaction mixture, the whole is washed with 0.1 N hydrochloric acid and saturated brine successively, and the organic layer is dried over anhydrous magnesium sulfate. The organic layer is concentrated under reduced pressure, and the resulting residue is purified by silica gel column chromatography to give the titled reference compound (4.00 g).

reactant | Triethylamine | 6.7 ml | C(C)N(CC)CC | C6H15N
reactant | DL-valine methyl ester hydrochloride | Cl.COC(C(N)C(C)C)=O
reactant | methanesulfonyl chloride | 1.9 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 70 ml | C(Cl)Cl | CH2Cl2
product | Methyl (2RS)-2-(N-methanesulfonyl)aminoisovalerate | 4.00 g | CS(=O)(=O)NC(C(=O)OC)C(C)C | C7H15NO4S
